US06838463B2
A reaction vessel was charged with 2.19 g of tetrakistriphenylphosphine palladium, 847 mg of phenylboronic acid, and 2.99 g of barium hydroxide, to which 40 ml of 1,2-dimethoxyethane, 7 ml of water, and 1.01 g of 2-methyl-4,6-dichloropyrimidine were added, followed by stirring at 80° C. under an atmosphere of a nitrogen gas for 6 hours. The reaction mixture was then left for cooling to room temperature, and water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.65 g of 2-methyl-4-chloro-6-phenylpyrimidine.

reactant | phenylboronic acid | 847 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | barium hydroxide | 2.99 g | [OH-].[Ba+2].[OH-]
reactant | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
reactant | 2-methyl-4,6-dichloropyrimidine | 1.01 g | CC1=NC(=CC(=N1)Cl)Cl | C5H4Cl2N2
solvent | water | O | H2O
solvent | water | 7 ml | O | H2O
product | 2-methyl-4-chloro-6-phenylpyrimidine | 0.65 g | CC1=NC(=CC(=N1)Cl)C1=CC=CC=C1 | C11H9ClN2
